US05124337
Heat a solution of 2-(3-methyl-4-methoxyphenyl)ethylamine (64.4 g) and 3-(4-chlorophenyl)-propionic acid (70.2 g) in xylene (600 mL) at reflux over a Dean-Stark trap for 5.5 h. Pour the hot reaction mixture into water an allow to stand overnight. Filter to collect the solid and recrystallize from ethanol to give N-[2-(3-methyl-4-methoxyphenyl)ethyl]-3-(4-chlorophenyl)propionamide (101.1 g), mp=142°-144° C.

reactant | 2-(3-methyl-4-methoxyphenyl)ethylamine | 64.4 g | CC=1C=C(C=CC1OC)CCN | C10H15NO
reactant | 3-(4-chlorophenyl)-propionic acid | 70.2 g | ClC1=CC=C(C=C1)CCC(=O)O | C9H9ClO2
reactant | water | O | H2O
solvent | xylene | 600 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-[2-(3-methyl-4-methoxyphenyl)ethyl]-3-(4-chlorophenyl)propionamide | 101.1 g | CC=1C=C(C=CC1OC)CCNC(CCC1=CC=C(C=C1)Cl)=O | C19H22ClNO2
